US07183270B2
Part A Preparation of 6-Chloro-quinazoline-2,4-diol
2-Amino-5-chlorobenzamide (Avocado) (3.00 g, 17.5 mmol, 1.0 eq.) was suspended in 105 mL of H2O and 1.75 mL of HOAc at rt. A 12 mL solution of H20 and sodium cyanate (2.80 g, 43.0 mmol, 2.46 eq.) was then added slowly. Stirred at 35° C. for 1 hour. Added 31.26 mL of 1.0 N NaOH slowly. Solids precipitated. Cooled to 0C. Carefully added conc. HCl to pH=3. Filtered solids. Solids were then stirred in diethyl ether then refiltered and pumped under high vacuum to give 3.36 grams of tan solids as product. LCMS detects (M+H)+=197.

reactant | 2-Amino-5-chlorobenzamide | 17.5 mmol, 3.00 g, 1.0 eq. | NC1=C(C(=O)N)C=C(C=C1)Cl | C7H7ClN2O
reactant | HOAc | 1.75 mL | CC(=O)O | C2H4O2
reactant | sodium cyanate | 43.0 mmol, 2.80 g, 2.46 eq. | [O-]C#N.[Na+]
reactant | NaOH | 1.0 N, 31.26 mL | [OH-].[Na+]
solvent | H2O | 105 mL | O | H2O
product | 6-Chloro-quinazoline-2,4-diol | 3.36 grams | ClC=1C=C2C(=NC(=NC2=CC1)O)O | C8H5ClN2O2
